US07834039B2
5-(5-(4-formylphenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile (0.077 g, 0.231 mmol) and azetidine-3-carboxylic acid (0.028 g, 0.277 mmol) were combined in methanol (11.55 ml) and DCE (11.55 ml) in a sealed vial. Acetic acid (0.066 ml, 1.155 mmol) was added. The reaction mixture was stirred at ambient temperature for 2 hr. MP-cyanoborohydride (0.265 g, 0.570 mmol) was added and the reaction stirred for about 24 h. The solution was filtered, the solid was washed with methylene chloride and methanol, and the filtrate was concentrated to afford a white solid, which was recrystallized by methanol (5 mL) to give 1-(4-(3-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)azetidine-3-carboxylic acid (0.025 g, 0.060 mmol, 25.9% yield) as white solid: LC/MS (Table 1, Method a) Rt=2.10 min.; MS m/z: 420.26 (M+H)+. 1H NMR (400 MHz, Solvent d-DMSO) ppm 8.35-8.28 (m, 2H), 8.17-8.11 (d, J=8.00 Hz, 2H), 7.56-7.50 (m, 8.69 Hz, 3H), 4.98-4.89 (m, 1H), 3.68 (s, 2H), 3.43 (s, 2H), 3.25-3.23 (m, 3H), 1.38 (d, J=6.03 Hz, 6H).

reactant | 5-(5-(4-formylphenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile | 0.231 mmol, 0.077 g | C(=O)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=C(C#N)C1)OC(C)C | C19H15N3O3
reactant | azetidine-3-carboxylic acid | 0.277 mmol, 0.028 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | Acetic acid | 1.155 mmol, 0.066 ml | C(C)(=O)O | C2H4O2
reactant | cyanoborohydride | 0.570 mmol, 0.265 g | C(#N)[BH3-]
solvent | methanol | 11.55 ml | CO | CH4O
solvent | DCE | 11.55 ml | ClCCCl | C2H4Cl2
product | 1-(4-(3-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)azetidine-3-carboxylic acid | 0.060 mmol, 0.025 g, 25.9% yield | C(#N)C=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C23H22N4O4
